US05686482
A 780 mg portion of 4-cyclopropylcarbonylamino-2-methoxybenzoic acid was dissolved in 10 ml of acetic anhydride and 0.5 ml of acetic acid, and 790 μl of concentrated nitric acid was slowly added to the above solution under ice-cooling, followed by 2 hours of stirring. The reaction solution was poured into ice water, and the thus formed precipitate was collected by filtration and dried under a reduced pressure to give 713 mg of 4-cyclopropylcarbonylamino-2-methoxy-5-nitrobenzoic acid.

reactant | 4-cyclopropylcarbonylamino-2-methoxybenzoic acid | C1(CC1)C(=O)NC1=CC(=C(C(=O)O)C=C1)OC | C12H13NO4
reactant | nitric acid | 790 μl | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 4-cyclopropylcarbonylamino-2-methoxy-5-nitrobenzoic acid | 713 mg | C1(CC1)C(=O)NC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OC | C12H12N2O6
